US05914351
A reaction mixture of N-[4-chloro-3-[(4-morpholinylimino)methyl]phenyl]-2-methyl-3-furancarboxamide (1.0 g), sodium bicarbonate (2.5 g), Lawesson's reagent (1.2 g) in toluene (25 ml) was heated at 85° C. for 4 hours. After cooling, the reaction mixture was passed through a plug of aluminum oxide, followed by elution with ether. Evaporation of the eluant gave 0.5 g of N-[4-chloro-3-[(4-morpholinylimino)methyl]phenyl]-2-methyl-3-furancarbothioamide as a yellow solid, mp 142-143° C.

reactant | N-[4-chloro-3-[(4-morpholinylimino)methyl]phenyl]-2-methyl-3-furancarboxamide | 1.0 g | ClC1=C(C=C(C=C1)NC(=O)C1=C(OC=C1)C)C=NN1CCOCC1 | C17H18ClN3O3
reactant | sodium bicarbonate | 2.5 g | C([O-])(O)=O.[Na+]
reactant | Lawesson's reagent | 1.2 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-chloro-3-[(4-morpholinylimino)methyl]phenyl]-2-methyl-3-furancarbothioamide | 0.5 g | ClC1=C(C=C(C=C1)NC(=S)C1=C(OC=C1)C)C=NN1CCOCC1 | C17H18ClN3O2S
